US07326710B2
(IV-7) N1-(2-naphthoylmethyl)-N4-phenacyl-piperazine dihydrochloride
A mixture of 2-bromo-1-(naphthalen-2-yl)ethanone (0.95 g, 3.8 mmol), N-phenacyl piperazine dihydrochloride (0.89 g, 3.2 mmol) and K2CO3 (1.56 g, 11.2 mmol) in 30 ml of DMF was stirred at 50° C. for 10 h, and treated according to the general preparation 2 to give compound (IV-7), 0.88 g (60.69%), mp 236-237° C., M+ 373.

reactant | 2-bromo-1-(naphthalen-2-yl)ethanone | 3.8 mmol, 0.95 g | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
reactant | N-phenacyl piperazine dihydrochloride | 3.2 mmol, 0.89 g | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 11.2 mmol, 1.56 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-(2-naphthoylmethyl)-N4-phenacyl-piperazine dihydrochloride | Cl.Cl.C1=C(C=CC2=CC=CC=C12)C(=O)CN1CCN(CC1)CC(=O)C1=CC=CC=C1 | InChI=1S/C24H24N2O2.2ClH/c27-23(20-7-2-1-3-8-20)17-25-12-14-26(15-13-25)18-24(28)22-11-10-19-6-4-5-9-21(19)16-22;;/h1-11,16H,12-15,17-18H2;2*1H
